US08877744B2
The reaction of (R)-5-[5-(5-chloro-pyridin-3-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (235 mg, 589 μmol) with Lawesson's reagent (238 mg, 589 μmol) in 1,4-dioxane (19.6 ml) yielded the (R)-5-[5-(5-chloro-pyridin-3-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione (211 mg, 86% yield) as a white solid. MS (ISP): m/z=415.1 [M+H]+ and 417.1 [M+2+H]+.

reactant | (R)-5-[5-(5-chloro-pyridin-3-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 589 μmol, 235 mg | ClC=1C=C(C=NC1)C=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C19H18ClF3N2O2
reactant | Lawesson's reagent | 589 μmol, 238 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 19.6 ml | O1CCOCC1 | C4H8O2
product | (R)-5-[5-(5-chloro-pyridin-3-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 211 mg, 86% yield | ClC=1C=C(C=NC1)C=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=S)C)F | C19H18ClF3N2OS
